US07772253B2
N-[1-(5-Amino-3-ethoxy-4-iodo-benzyl)piperidin-4-yl]-5-methyl-nicotinamide
The title compound (4 mg, 8%) was prepared analogously to example 30 from 5-methyl-N-(piperidin-4-yl)-nicotinamide and 5-amino-3-ethoxy-4-iodo-benzaldehyde. MS: 495.4 (MH+).

reactant | 5-methyl-N-(piperidin-4-yl)-nicotinamide | CC=1C=NC=C(C(=O)NC2CCNCC2)C1 | C12H17N3O
reactant | 5-amino-3-ethoxy-4-iodo-benzaldehyde | NC=1C(=C(C=C(C=O)C1)OCC)I | C9H10INO2
product | N-[1-(5-Amino-3-ethoxy-4-iodo-benzyl)piperidin-4-yl]-5-methyl-nicotinamide | 4 mg, 8% | NC=1C(=C(C=C(CN2CCC(CC2)NC(C2=CN=CC(=C2)C)=O)C1)OCC)I | C21H27IN4O2
